US05280032
In 0.5 ml of methanol was dissolved 80 mg of 1-acetoxy-1-(1H-inden-6-yl)-2-[2-(N,N-dimethylamino)ethoxy]ethane. To the solution was added 80 mg of a 28% sodium methoxide-methanol solution with ice cooling. The resulting mixture was stirred at room temperature for 20 minutes. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: chloroform/methanol=20/1) to obtain a yellow oily product. The oily product was dissolved in 0.1 ml of ethanol. To the solution was added 0.1 ml of a 5.9N dry hydrogen chloride-ethanol solution at room temperature. The resulting crystals were collected by filtration to obtain 20 mg of 1-(1H-inden-6-yl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol hydrochloride (compound No. 298).

reactant | 1-acetoxy-1-(1H-inden-6-yl)-2-[2-(N,N-dimethylamino)ethoxy]ethane | 80 mg | C(C)(=O)OC(COCCN(C)C)C1=CC=C2C=CCC2=C1 | C17H23NO3
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | hydrogen chloride ethanol | 5.9N | Cl.C(C)O
solvent | methanol | 0.5 ml | CO | CH4O
solvent | ethanol | 0.1 ml | C(C)O | C2H6O
product | 1-(1H-inden-6-yl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol hydrochloride | 20 mg | Cl.C1C=CC2=CC=C(C=C12)C(COCCN(C)C)O | InChI=1S/C15H21NO2.ClH/c1-16(2)8-9-18-11-15(17)14-7-6-12-4-3-5-13(12)10-14;/h3-4,6-7,10,15,17H,5,8-9,11H2,1-2H3;1H
